US04525356
N-(2-Diethylaminoethyl)-4'-methoxy-3-methylflavone-8-carboxamide
To a solution of 6.00 g of 4'-methoxy-3-methylflavone-8-carboxylic acid and 2.70 ml of triethylamine in 70 ml of anhydrous tetrahydrofuran was added a solution of 2.03 ml of ethyl chlorocarbonate in 10 ml of anhydrous tetrahydrofuran and the mixture was stirred for 1 hour under ice-cooling. To the reaction mixture was added a solution of 2.25 g of N,N-diethylethylenediamine in 10 ml of anhydrous tetrahydrofuran and the mixture was stirred for 1.5 hours under ice-cooling and further 16 hours at room temperature. The reaction mixture was treated by the same procedure as in Example 3(b), to give 3.55 g of pale yellow crystals, which were recrystallized from ethyl acetate as colorless needles, m.p. 125.5°-127° C. This compound was identical with the product obtained in Example 36(a) in NMR and IR spectra, and mixed m.p.

reactant | 4'-methoxy-3-methylflavone-8-carboxylic acid | 6.00 g | COC1=CC=C(C=2OC3=C(C=CC=C3C(C2C)=O)C(=O)O)C=C1 | C18H14O5
reactant | triethylamine | 2.70 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 2.03 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | N,N-diethylethylenediamine | 2.25 g | C(C)N(CCN)CC | C6H16N2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(2-Diethylaminoethyl)-4'-methoxy-3-methylflavone-8-carboxamide | 3.55 g | C(C)N(CCNC(=O)C=1C=CC=C2C(C(=C(OC12)C1=CC=C(C=C1)OC)C)=O)CC | C24H28N2O4
